US06130217
3-Methyl-3H-benzoimidazol-4-ol
2-Methylamino-3-nitrophenol (1.00 g, 5.98 mmol) in MeOH (100 mL) with HOAc (0.22 mL) was hydrogenated (50 psi) for 2 hours over 10% Pd on carbon (186 mg). The catalyst was removed by filtration and the filtrate concentrated in vacuo. The residue was dissolved in formic acid and refluxed for 17 hours under N2 (g). Excess acid was removed in vacuo, and the residue was taken up in 5% MeOH in EtOAc and washed with saturated aqueous NaHCO3 and brine. The organic phase was dried over Na2SO4 and concentrated in vacuo. The residue was taken up in 5% MeOH in EtOAc and washed with saturated aqueous NaHCO3 and brine. The organic phase was dried over Na2SO4 and concentrated in vacuo to yield a red-brown solid which was chromatographed on silica (50-100% EtOAc/hexanes). The desired product (GC/MS m/z 148) was obtained as a yellow solid, 0.748 g; 84%.

reactant | 2-Methylamino-3-nitrophenol | 5.98 mmol, 1.00 g | CNC1=C(C=CC=C1[N+](=O)[O-])O | C7H8N2O3
reactant | HOAc | 0.22 mL | CC(=O)O | C2H4O2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd on carbon | 186 mg | [Pd] | Pd
product | 3-Methyl-3H-benzoimidazol-4-ol | CN1C=NC2=C1C(=CC=C2)O | C8H8N2O
